US07750160B2
Synthesis of Compound G12: 1-(4-(2-fluorobenzyloxy)phenyl)-3-(5-tert-butylisoxazol-3-yl)urea
4-(2-Fluoro-benzyloxy)-phenylamine (0.12 g, 1 eq) was mixed with 5-tert-Butyl-3-isocyanato-isoxazole (0.9 g 1 eq) and dissolved in dry toluene. The reaction stirred at 80° C. overnight. The solvent was removed and purified by HPLC. Yield: 85 mg (31%), LC/MS [MH+] 384.

reactant | 4-(2-Fluoro-benzyloxy)-phenylamine | 0.12 g, 1 eq | FC1=C(COC2=CC=C(C=C2)N)C=CC=C1 | C13H12FNO
reactant | 5-tert-Butyl-3-isocyanato-isoxazole | 0.9 g, 1 eq | C(C)(C)(C)C1=CC(=NO1)N=C=O | C8H10N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-(2-fluorobenzyloxy)phenyl)-3-(5-tert-butylisoxazol-3-yl)urea | FC1=C(COC2=CC=C(C=C2)NC(=O)NC2=NOC(=C2)C(C)(C)C)C=CC=C1 | C21H22FN3O3
